US06455520B1
N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-3-[N-(3-dimethylaminopropyl)-N-methylamino]-2-nitrobenzamide
In an analogous procedure to that described in Example 15, N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-3-chloro-2-nitrobenzamide was reacted with N-(3dimethylaminopropyl)-N-methylamine to give the title compound; NMR Spectrum: (DMSOd6) 1.44-1.58 (m, 2H), 2.06 (s, 6H), 2.15 (t, 2H), 2.21 (s, 3H), 2.69 (s, 3H), 3.02 (t, 2H), 3.48-3.53 (m, 4H) 3.69-3.73 (m, 4H), 7.1 (d, 1H), 7.19-7.25 (m, 2H), 7.44-7.62 (m, 3H), 7.74-7.64 (m, 1H), 7.94 (d, 1H), 8.26 (d, 1H), 10.13 (s, 1H), 10.32 (s, 1H); mass spectrum: M+H+ 576.

reactant | N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-3-chloro-2-nitrobenzamide | CC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)NC(C1=C(C(=CC=C1)Cl)[N+](=O)[O-])=O | C24H22ClN5O5
reactant | N-(3dimethylaminopropyl)-N-methylamine | CN(CCCNC)C | C6H16N2
product | N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-3-[N-(3-dimethylaminopropyl)-N-methylamino]-2-nitrobenzamide | CC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)NC(C1=C(C(=CC=C1)N(C)CCCN(C)C)[N+](=O)[O-])=O | C30H37N7O5
